SIMPLE DIFFERENTIAL PAIR
VCC  7  0    12
VEE  8  0    -12
VIN  1  0 AC 1 0 SIN 0 1 1K 0 0 0
RS1  1  2    1K
RS2  6  0    1K
Q1   3  2  4 MOD1
Q2   5  6  4 MOD1
RC1  7  3    10K
RC2  7  5    10K
RE   4  8    10K
.MODEL MOD1 NPN BF=50 VAF=50 IS=1.E-12 RB=100 CJC=.5PF TF=.6NS

.options device newexcessphase=1
.print ac v(5)
.AC DEC 10 1 100MEG

.END
