N-Channel Mosfet Circuit 
**************************************************************
* Tier No.: 2
* Description:   Circuit netlist to test current-voltage
*                characteristics of the Xyce n-channel
*                mosfet level 1 model.  
* Analysis:
* VG  =  {R2/(R1 + R2)} * VDD = 5.74V
* ID  = 1.927mA
* VGS = 4.78V
* VDS = 12.8V
************************************************************** 
VDD 5 0 DC 18V
VGG 3 0 DC 5V
R1 5 1 47MEG
R2 1 0 22MEG
RD 5 4 2.2K
RS 2 0 500
M1 3 1 2 2 NFET 
.MODEL NFET NMOS(LEVEL=1 KP=0.5M VTO=2V)
.DC VGG 0 18 1 VDD 0 18 1
.PRINT DC V(3) V(5) V(3,2) V(1,2)
.END
